US08252833B2
Ethyl (4-amino-3-fluorophenyl)acetate
Diethyl (4-amino-3-fluorophenyl)propanedioate (11.85 g, 44.1 mmol) was dissolved in ethanol (80 ml) and treated with NaOH (2.6 g, 1.5 eq) dissolved in 18 ml of water to give a pink solution. This was heated to 90° C. for 1 hour until complete. Heating continued for 1 further hour, and then cooled to room temperature. Solvent evaporated and acidified with 2N HCl. Extracted with ethyl acetate (3×100 ml). Organics washed with brine and dried over MgSO4. Evaporated to give the title compound as a yellow oil which crystallised slowly on standing (6.6 g).

reactant | Diethyl (4-amino-3-fluorophenyl)propanedioate | 44.1 mmol, 11.85 g | NC1=C(C=C(C=C1)C(C(=O)OCC)C(=O)OCC)F | C13H16FNO4
reactant | NaOH | 2.6 g, 1.5 eq | [OH-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 18 ml | O | H2O
product | Ethyl (4-amino-3-fluorophenyl)acetate | NC1=C(C=C(C=C1)CC(=O)OCC)F | C10H12FNO2
